US06498172B1
3-(3-{[(Pyridine-2-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]- methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step B of Example 1 from 3-{3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11z, and pyridine-2-sulfonyl chloride hydrochloride salt, of Preparation 47, using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.80 (d, 2H), 8.68 (m, 1H), 8.27 (d, 2H), 7.98 (m, 1H), 7.86 (m, 1H), 7.46 (m, 1H), 7.20 (m, 3H), 7.12 (m, 1H), 7.02 (d, 1H), 6.96 (d, 1H), 6.91 (s, 1H), 4.55 (s, 2H), 4.48 (s, 2H), 3.65 (s, 3H), 2.80 (t, 2H), 2.50 (t, 2H); MS 503 (M+1).

reactant | 3-{3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CC=N1)=O | C22H23N3O2
reactant | pyridine-2-sulfonyl chloride hydrochloride salt | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(Pyridine-2-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]- methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C1=NC=CC=C1)=O | C27H26N4O4S
